************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vsel0 sel0 0 PWL 0n 0 10000n 0 10001n VCC 20000n VCC 20001n 0 30000n 
+0 30001n VCC 40000n VCC 40001n 0 
Vsel1 sel1 0 PWL 0n 0 20000n 0 20001n VCC 40000n VCC 40001n 0 60000n 
+0 60001n VCC 
Vvss vss 0 PWL 0n 0 
Vvcc vcc 0 PWL 0n VCC 

