************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vsel0 sel0 0 PWL 0n 0 8000n 0 8001n VCC 16000n VCC 16001n 0 24000n 
+0 24001n VCC 32000n VCC 32001n 0 72000n 0 72001n VCC 80000n VCC 80001n 0 
+88000n 0 88001n VCC 96000n VCC 96001n 0 
Vsel1 sel1 0 PWL 0n 0 16000n 0 16001n VCC 32000n VCC 32001n 0 48000n 
+0 48001n VCC 56000n VCC 56001n 0 80000n 0 80001n VCC 96000n VCC 96001n 0 
+112000n 0 112001n VCC 
Vvss vss 0 PWL 0n 0 
Vsel2 sel2 0 PWL 0n 0 56000n 0 56001n VCC 
Vvcc vcc 0 PWL 0n VCC 

